US05599587
Ethanolamine (5 g, 82 mmol) and triethylamine (11.4 ml, 8.28 g, 82 mmol) were dissolved in dry tetrahydrofuran (50 ml). Chlorotrimethylsilane (10.4 ml, 8.90 g, 82 mmol) was added over five minutes and the mixture was stirred for 30 minutes. The white solid was removed by filtration and washed with dry tetrahydrofuran. The combined filtrate and washings were stirred and triethylamine (11.4 ml, 8.28 g, 82 mmol) was added followed by chlorotriphenylmethane (22.8 g, 82 mmol). The mixture was stirred at ambient temperature for two hours, when it was filtered and the filtrate cooled to 0° C. for 30 minutes. Following a further filtration the liquors were stirred with methanol (60 ml) for fifteen minutes. The solvent was removed under vacuum and the residue crystallised from hot ethyl acetate. The resulting white solid was dried under vacuum at room temperature for 16 hours before triturating successively with diethyl ether (twice) and acetone (twice). The residue was heated with boiling acetone (700 ml) for ten minutes before the solid was collected by filtration, washed with cold acetone and dried under vacuum for four hours to give N-(triphenylmethyl)ethanolamine.

reactant | Ethanolamine | 82 mmol, 5 g | C(O)CN | C2H7NO
reactant | triethylamine | 82 mmol, 11.4 ml, 8.28 g | C(C)N(CC)CC | C6H15N
reactant | Chlorotrimethylsilane | 82 mmol, 10.4 ml, 8.90 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | triethylamine | 82 mmol, 11.4 ml, 8.28 g | C(C)N(CC)CC | C6H15N
reactant | chlorotriphenylmethane | 82 mmol, 22.8 g | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(triphenylmethyl)ethanolamine | C1(=CC=CC=C1)C(NCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H21NO
